US08389511B2
Methyl (2S)-2-methyl-3-oxo-2-phenyl-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate
Using (2S)-2-hydroxy-2-phenylpropanoic acid and methyl 4-fluoro-5-nitro-2-(trifluoromethyl)-benzoate, the title compound was obtained in a similar manner to Reference Example 22 and Reference Example 2.

reactant | (2S)-2-hydroxy-2-phenylpropanoic acid | O[C@@](C(=O)O)(C)C1=CC=CC=C1 | C9H10O3
reactant | methyl 4-fluoro-5-nitro-2-(trifluoromethyl)-benzoate | FC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C(F)(F)F | C9H5F4NO4
product | Methyl (2S)-2-methyl-3-oxo-2-phenyl-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | C[C@]1(OC2=C(NC1=O)C=C(C(=C2)C(F)(F)F)C(=O)OC)C2=CC=CC=C2 | C18H14F3NO4
